US05731331
A mixture of 15.0 g (48 mmol) of 8-hydroxy-8-phenyl-5-azoniaspiro[4,5]decane, 5.4 g (53 mmol) of 4-chloropyrazole and 13.2 g of potassium carbonate in 200 ml of dimethylformamide is heated at reflux for 20 hours. Evaporation to dryness is then carried out at reduced pressure, the residue is redissolved in chloroform and washing is carried out repeatedly with water. The organic phase is dried with anhydrous sodium sulfate and evaporation is carried out at reduced pressure, a crude product being obtained which is suspended in ethyl ether, which is filtered while cold and which is washed with ethyl ether. 12.4 g (37.1 mmol) of 4-chloro-1-[4-(4-hydroxy-4-phenyl-1-piperidyl)butyl]-1H-pyrazole are obtained.

reactant | 8-hydroxy-8-phenyl-5-azoniaspiro[4,5]decane | 48 mmol, 15.0 g | OC1(CC[N+]2(CCCC2)CC1)C1=CC=CC=C1
reactant | 4-chloropyrazole | 53 mmol, 5.4 g | ClC=1C=NNC1 | C3H3ClN2
reactant | potassium carbonate | 13.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-chloro-1-[4-(4-hydroxy-4-phenyl-1-piperidyl)butyl]-1H-pyrazole | 37.1 mmol, 12.4 g | ClC=1C=NN(C1)CCCCN1CCC(CC1)(C1=CC=CC=C1)O | C18H24ClN3O
